US07691881B2
5-CHLORO-N-({1-[(1-HYDROXYCYCLOHEXYL)METHYL]PIPERIDIN-4-YL}METHYL)-1-ISOPROPYL-6-METHYL-2-OXO-1,2-DIHYDROPYRIDINE-3-CARBOXAMIDE
A mixture of 5-chloro-1-isopropyl-6-methyl-2-oxo-N-(piperidin-4-ylmethyl)-1,2-dihydropyridine-3-carboxamide as prepared in Example 6(2) (484 mg, 1.49 mmol) and 1-oxaspiro[2.5]octane (200 mg, 1.78 mmol, prepared according to Blake, Alexander J et al., J. Chem. Soc. Dalton Trans., 1998, 14, 2335) in methanol (5 mL) was stirred at 50° C. for 16 h. Then, the solvent was removed in vacuo. The residue was chromatographed on a column of silica gel eluting with dichloromethane/methanol (v/v=20/1) to give 751 mg (99%) of the title compound as a white solid.

reactant | 5-chloro-1-isopropyl-6-methyl-2-oxo-N-(piperidin-4-ylmethyl)-1,2-dihydropyridine-3-carboxamide | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)NCC1CCNCC1 | C16H24ClN3O2
reactant | 1-oxaspiro[2.5]octane | 1.78 mmol, 200 mg | O1CC12CCCCC2 | C7H12O
solvent | methanol | 5 mL | CO | CH4O
product | 5-CHLORO-N-({1-[(1-HYDROXYCYCLOHEXYL)METHYL]PIPERIDIN-4-YL}METHYL)-1-ISOPROPYL-6-METHYL-2-OXO-1,2-DIHYDROPYRIDINE-3-CARBOXAMIDE | 751 mg, 99% | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)NCC1CCN(CC1)CC1(CCCCC1)O | C23H36ClN3O3
